US04245103
Preparation of N-(2 -Hydroxy-2-phenylethyl)-2-methoxyethylamine
To 157 g of refluxing 2-methoxyethylamine is added dropwise 25 g styrene oxide during a period of 15 minutes. After addition of the amine, the mixture is allowed to reflux for another two hours.

reactant | 2-methoxyethylamine | 157 g | COCCN | C3H9NO
reactant | styrene oxide | 25 g | C1C(C2=CC=CC=C2)O1 | C8H8O
product | N-(2 -Hydroxy-2-phenylethyl)-2-methoxyethylamine | OC(CNCCOC)C1=CC=CC=C1 | C11H17NO2
